US06660744B1
A mixture of benzyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]carbamate (2.00 g, 0.0052 mol), cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (1.92 g, 0.0044 mol), tetrakis-(triphenylphosphine)palladium (0.300 g, 0.00026 mol) and sodium carbonate (1.35 g, 0.0109 mol) was heated in a mixture of ethylene glycol dimethyl ether (70 mL) and water (35 mL) at 80° C. for sixteen hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate solution (150 mL) and ethyl acetate (180 mL), the organic layer separated and the aqueous layer further extracted twice with ethyl acetate (250 mL each). The combined organic extracts were dried over magnesium sulfate. The solvents were evaporated under reduced pressure to leave a tan solid which was purified by flash column chromatography on silica using dichloromethane/triethylamine/methanol (96:3:1) as a mobile phase to give cis-benzyl N-{4-{4-amino-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl}carbamate as a white solid (1.88 g, 0.0023 mol). Cis-benzyl N-{4-{4-amino-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl}carbamate (0.206 g, 0.00036 mol) was dissolved in refluxing ethanol (17 mL) and a preheated solution of maleic acid (0.126 g, 0.00108 mol) in ethanol (8 mL) was added. The mixture was refluxed for 10 min, cooled to ambient temperature and the precipitate collected by filtration, washed with ethyl acetate and dried to give cis-benzyl N-{4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl}-carbamate dimaleate as a white solid (0.224 g, 0.00028 mol):

reactant | benzyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]carbamate | 0.0052 mol, 2.00 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OCC1=CC=CC=C1)=O | C21H26BNO5
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0044 mol, 1.92 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate | 0.0109 mol, 1.35 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 70 mL | COCCOC | C4H10O2
solvent | water | 35 mL | O | H2O
product | cis-benzyl N-{4-{4-amino-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl}carbamate | 0.0023 mol, 1.88 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(OCC2=CC=CC=C2)=O)OC)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C31H38N8O3
